US04133814
Preparation of 2-(4-methoxyphenyl)-3-benzoyl-6-methoxybenzothiophene.
To 300 ml. of 1,2-dichloroethane maintained at 0° C. were added 6.0 g. (0.022 mole) of 2-(4-methoxyphenyl)-6-methoxybenzothiophene and 3.10 g. (0.022 mole) of benzoyl chloride. The mixture was stirred vigorously, and 3.2 g. (0.024 mole) of aluminum chloride were added in small portions. The resulting red solution was stirred for one hour, and water then was added. The yellow organic layer was separated, washed with 200 ml. of 1N sodium hydroxide and then with 200 ml. of saturated sodium chloride solution. The mixture then was dried over potassium carbonate, and the solvent was evaporated to give a pale yellow solid which was purified by chromatography over silica gel using benzene and 5% ethyl acetate in benzene as eluant. The appropriate fractions gave product as yellow crystals. The product was recrystallized from methanol to obtain 3.5 g. (42 percent) of 2-(4-methoxyphenyl)-3-benozyl-6-methoxybenzothiophene, melting point 110.5°-111° C.

reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
reactant | 2-(4-methoxyphenyl)-6-methoxybenzothiophene | 0.022 mole | COC1=CC=C(C=C1)C=1SC2=C(C1)C=CC(=C2)OC | C16H14O2S
reactant | benzoyl chloride | 0.022 mole | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aluminum chloride | 0.024 mole | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | water | O | H2O
product | 2-(4-methoxyphenyl)-3-benzoyl-6-methoxybenzothiophene | COC1=CC=C(C=C1)C=1SC2=C(C1C(C1=CC=CC=C1)=O)C=CC(=C2)OC | C23H18O3S
